US04457931
1-(2-Pyridyl)-4(2-pyrrolidinoethyl)piperazine trihydrochloride (3)
A mixture of 12 grams; (0.074 moles) of 1-(2-pyridyl)piperazine, 10.2 grams (0.074 moles) of potassium carbonate, and N-(2-chloroethyl)pyrrolidine (10.0 grams; 0.074 moles) in 80 cc xylene is boiled for about 10 hours. After cooling, the mixture is filtered and the filtrate is evaporated under reduced pressure. The oily residue is dissolved in diethyl ether and the solution after cooling is treated with gaseous hydrochloride, thus obtaining the precipitation of the trihydrochloride salt, which is recrystallized until pure: melting point 294°-296° (from methanol); Rf=0.33 (MeOH-conc. NH4OH 97:3); I.R. (nujol), νmax: 2650, 2550, 2420, 2350, 1640, 1610, 1540, 1450, 1440, 1300, 1270, 770 cm-1.Cl- (AgNO3)-calc. % 28.76--Found % 28.85.

reactant | 1-(2-pyridyl)piperazine | 0.074 moles | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 0.074 moles, 10.2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)pyrrolidine | 0.074 moles, 10.0 grams | ClCCN1CCCC1 | C6H12ClN
solvent | xylene | 80 cc | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-Pyridyl)-4(2-pyrrolidinoethyl)piperazine trihydrochloride | Cl.Cl.Cl.N1=C(C=CC=C1)N1CCN(CC1)CCN1CCCC1 | InChI=1S/C15H24N4.3ClH/c1-2-6-16-15(5-1)19-13-11-18(12-14-19)10-9-17-7-3-4-8-17;;;/h1-2,5-6H,3-4,7-14H2;3*1H
